### PR TITLE
Definition of the `lastn` function and its properties.

### PR DESCRIPTION
**Pull request by wkolowski**
This is needed to prove the equivalence of definitions of `MO_msg_valid` and `MO_msg_valid'` in the New ELMO.

### CODE REVIEW

File: theories/VLSM/Lib/ListExtras.v [hunk 1]
```diff
@@ -2108,3 +2108,49 @@ Proof.
...
   by rewrite elem_of_list_In, in_prod_iff, <- !elem_of_list_In.
 Qed.
+
+(** ** The function [lastn] and its properties *)
+
+Definition lastn {A : Type} (n : nat) (l : list A) : list A :=
+  rev (firstn n (rev l)).
+
+Lemma lastn_nil :
+  forall {A : Type} (n : nat),
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:2118]: This is OK for now, but we really should factor out `{A : Type}` into a section variable in the near future. Also, why not keep this on same row as the `forall`, since it's so short?

File: theories/VLSM/Lib/ListExtras.v [hunk 2]
```diff
@@ -2108,3 +2108,49 @@ Proof.
...
+Lemma lastn_0 :
+  forall {A : Type} (l : list A),
+    lastn 0 l = [].
+Proof.
+  by intros A l; unfold lastn; rewrite take_0.
+Qed.
+
+Lemma lastn_cons :
+  forall {A : Type} (n : nat) (h : A) (t : list A),
+    lastn n (h :: t) = if decide (S (length t) <= n) then h :: t else lastn n t.
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:2133]: Isn't it better to split this lemma into one part for `S (length t) <= n` and one part for `~ S (length t) <= n`? This gives more flexibility when to do the case analysis.

**Review by palmskog — APPROVED** [review]
This is OK for now, but these lemmas like other lemmas in the should use sections better.

File: theories/VLSM/Lib/ListExtras.v (hunk 2 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v]: I like rewriting lemmas without side conditions, so I'll keep it, but I have added one lemma for the second case (the first is already covered by `lastn_ge`) and refactored the proof of `lastn_cons` to use them.
